US07479562B2
Biphenyl-2-ylcarbamic Acid 1-(3-{4-[3-(4-Hydroxybenzylamino)propyl]-2,5-dioxopiperazin-1-yl}propyl)piperidin-4-yl Ester
To a stirred solution of 1,4-bis(3-chloropropyl)piperazine-2,5-dione (40 mg, 0.15 mmol; prepared as described in Preparation 7) in DMF (1.5 mL) was added biphenyl-2-ylcarbamic acid piperidin-4-yl ester (44 mg, 0.15 mmol; prepared as described in Preparation 3) and DIPEA (0.078 mL, 0.45 mmol) and the reaction was allowed to stir overnight at room temperature. After overnight, 4-hydroxybenzyl amine (18.5 mg, 0.15 mmol) was added and the reaction heated to 50° C. for 16 hours. Next the reaction mixture was concentrated in vacuo and then dissolved in 1:1 mixture HOAc:H2O (1.5 mL) and purified on reverse-phase silica gel (gradient elution, 10-50% ACN/H2O) to afford the title compound in 10% yield (over 2 step) (13 mg, 0.015 mmol). MS m/z: [M+H+] calcd for C35H43N5O5, 614.4; found, 614.2).

reactant | 1,4-bis(3-chloropropyl)piperazine-2,5-dione | 0.15 mmol, 40 mg | ClCCCN1C(CN(C(C1)=O)CCCCl)=O | C10H16Cl2N2O2
reactant | biphenyl-2-ylcarbamic acid piperidin-4-yl ester | 0.15 mmol, 44 mg | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
reactant | DIPEA | 0.45 mmol, 0.078 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxybenzyl amine | 0.15 mmol, 18.5 mg | OC1=CC=C(CN)C=C1 | C7H9NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | Biphenyl-2-ylcarbamic Acid 1-(3-{4-[3-(4-Hydroxybenzylamino)propyl]-2,5-dioxopiperazin-1-yl}propyl)piperidin-4-yl Ester | 10% yield | OC1=CC=C(CNCCCN2CC(N(CC2=O)CCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)=O)C=C1 | C35H43N5O5
